US04481142
2-Amino-9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxid
In two equal portions 28 g (150 mmole) of guanidine carbonate and 38 ml (150 mmole) of a 4.09 M methanol solution of sodium methoxide was added over a 2 hr period to a solution of 7.0 g (20 mmole) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one-2-oxide in 210 ml of methanol. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a red solid. Recrystallization from a mixture of methanol and ethyl acetate gave the product as fine yellow needles, m.p. 320°-323° C.

reactant | guanidine carbonate | 150 mmole, 28 g | C(O)(O)=O.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one-2-oxide | 20 mmole, 7.0 g | ClC1=CC2=C(C(C(C[N+](=C2C2=C(C=CC=C2)F)[O-])=CN(C)C)=O)C=C1 | C19H16ClFN2O2
solvent | methanol | 210 ml | CO | CH4O
solvent | water | O | H2O
solvent | methanol | 4.09 M | CO | CH4O
product | 2-Amino-9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxid | NC=1N=CC=2C[N+](=C(C3=C(C2N1)C=CC(=C3)Cl)C3=C(C=CC=C3)F)[O-] | C18H12ClFN4O
